US07244744B2
2-Oxo-oxazolidine-3-sulfonic acid benzylamide (0.059 g; 0.23 mmol; 1 equiv) was added to a solution of 1-piperidin-4-yl-1,3-dihydro-benzoimidazol-2-one (0.050 mg; 0.23 mmol) in acetonitrile (2 mL). Triethylamine (32 μL; 0.23 mmol) was added and the reaction mixture was heated at 80° C. for 48 h. The reaction mixture was evaporated under reduced pressure and the crude product was purified by preparative liquid chromatography to provide 4-(2-oxo-2,3-dihydro-benzoimidazol-1-yl)-piperidine-1-sulfonic acid benzylamide (0.010 g) as a white solid.

reactant | 2-Oxo-oxazolidine-3-sulfonic acid benzylamide | 0.23 mmol, 0.059 g, 1 equiv | C(C1=CC=CC=C1)NS(=O)(=O)N1C(OCC1)=O | C10H12N2O4S
reactant | 1-piperidin-4-yl-1,3-dihydro-benzoimidazol-2-one | 0.23 mmol, 0.050 mg | N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C12H15N3O
reactant | Triethylamine | 0.23 mmol, 32 μL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | 4-(2-oxo-2,3-dihydro-benzoimidazol-1-yl)-piperidine-1-sulfonic acid benzylamide | 0.010 g | C(C1=CC=CC=C1)NS(=O)(=O)N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C19H22N4O3S
